US05985849
5-Triphenylsilyl-2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine was prepared as a colourless foam from 2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine according to the method of Example 1 step (i) (using triphenylsilylchloride instead of benzophenone).

reactant | 2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine | CC(C)(C)[Si](O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)CO[Si](C)(C)C(C)(C)C)N1C(=O)NC(=O)C=C1)(C)C | C27H54N2O6Si3
reactant | triphenylsilylchloride | C1(=CC=CC=C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C18H15ClSi
product | 5-Triphenylsilyl-2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine | C1(=CC=CC=C1)[Si](C=1C(NC(N([C@H]2[C@H](O[Si](C)(C)C(C)(C)C)[C@H](O[Si](C)(C)C(C)(C)C)[C@@H](CO[Si](C)(C)C(C)(C)C)O2)C1)=O)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H68N2O6Si4
